*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.50e-03[uF]/100[V]
* Murata P/N :GCM155R72A152KA01
* Property : C = 1.50e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R72A152KA01 Port1 Port2
C01 Port1 N01 1.51e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.43e-10
R03 N02 N03 2.10e-01
C04 N03 N04 1.62e-07
R04 N03 N04 1.09e+04
C05 N04 N05 2.35e-07
R05 N04 N05 7.53e+02
C06 N05 N06 1.96e-07
R06 N05 N06 8.45e+01
C07 N06 N07 1.70e-07
R07 N06 N07 7.83e+00
C08 N07 N08 1.44e-07
R08 N07 N08 1.22e+00
C09 N08 N09 7.04e-08
R09 N08 N09 3.56e-01
C10 N09 N10 2.56e-08
R10 N09 N10 1.37e-01
L11 N10 N11 3.71e-11
R11 N10 N11 2.77e+00
L12 N11 N12 2.68e-11
R12 N11 N12 3.36e-01
C13 N12 N13 1.62e-09
L13 N12 N13 1.40e-11
R13 N12 N13 1.01e-01
C14 N13 Port2 2.91e-12
L14 N13 Port2 1.20e-10
R14 N13 Port2 1.36e+01
.ENDS GCM155R72A152KA01
